US09340510B2
5-Bromo-6-cyclopropylmethoxy-benzaldehyde
300 mg (1.49 mmol) 2-Bromo-3-hydroxy-benzaldehyde, 302 mg (2.24 mmol) (bromomethyl)cyclopropane and 412 mg (2.99 mmol) K2CO3 in 3 mL DMF are stirred at 80° C. over night. Afterwards the reaction mixture is diluted with water and extracted with EtOAc. The organic layer is separated and dried over Na2SO4, filtered and the solvent is removed in vacuo.

reactant | 2-Bromo-3-hydroxy-benzaldehyde | 1.49 mmol, 300 mg | BrC1=C(C=O)C=CC=C1O | C7H5BrO2
reactant | (bromomethyl)cyclopropane | 2.24 mmol, 302 mg | BrCC1CC1 | C4H7Br
reactant | K2CO3 | 2.99 mmol, 412 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-Bromo-6-cyclopropylmethoxy-benzaldehyde | BrC=1C=CC=C(C=O)C1OCC1CC1 | C11H11BrO2
